US06437009B1
N-hexyl DL-tartarimide was prepared by the reaction of n-hexyl amine with DL-tartaric acid. DL-Tartaric acid (10.026 g, 66.80 mmole) and toluene (17.327 g) were weighed into a 250 mL 3-necked round-bottomed flask equipped with a teflon-coated magnetic stir bar. A Claisen adapter was placed in the center neck, a Dean-Stark trap was placed on top of the Claisen adapter, and a condenser was placed in the neck of the Dean-Stark trap. A nitrogen inlet adapter was placed on the condenser. In the left neck was placed a pressure-equalizing addition funnel containing n-hexyl amine (6.760 g, 66.80 mmole) and toluene (7.936 g, added to ensure complete transfer of the amine). In the right neck was placed a rubber septum which held a thermocouple. The apparatus was purged with nitrogen for 10-15 minutes and then heated to ˜100° C.

reactant | n-hexyl amine | C(CCCCC)N | C6H15N
reactant | DL-tartaric acid | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
reactant | DL-Tartaric acid | 66.80 mmole, 10.026 g | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
reactant | n-hexyl amine | 66.80 mmole, 6.760 g | C(CCCCC)N | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 17.327 g | C1(=CC=CC=C1)C | C7H8
product | N-hexyl DL-tartarimide | C(CCCCC)N1C(C(O)C(O)C1=O)=O | C10H17NO4
